US06166219
A solution of 0.800 g of N-(2-pyridylmethyl)-4-acetylamino-3-aminobenzamide in 10 ml of methanol were added 1.08 g of 4-(4-bromomethylphenyl)-1,2,3-thiadiazole and 0.710 g of sodium hydrogencarbonate, and the mixture was stirred at 70° C. for 1 hour. The reaction solution was concentrated, and was purified through silica-gel column chromatography (eluent: a mixture of ethyl acetate and methanol at a ratio of 9:1) to give 0.830 g of N-(2-pyridylmethyl)-4-acetylamino-3-[4-(1,2,3-thiadiazol-4-yl)benzylamino]benzamide

reactant | N-(2-pyridylmethyl)-4-acetylamino-3-aminobenzamide | 0.800 g | N1=C(C=CC=C1)CNC(C1=CC(=C(C=C1)NC(C)=O)N)=O | C15H16N4O2
reactant | 4-(4-bromomethylphenyl)-1,2,3-thiadiazole | 1.08 g | BrCC1=CC=C(C=C1)C=1N=NSC1 | C9H7BrN2S
reactant | sodium hydrogencarbonate | 0.710 g | C(O)([O-])=O.[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | N-(2-pyridylmethyl)-4-acetylamino-3-[4-(1,2,3-thiadiazol-4-yl)benzylamino]benzamide | 0.830 g | N1=C(C=CC=C1)CNC(C1=CC(=C(C=C1)NC(C)=O)NCC1=CC=C(C=C1)C=1N=NSC1)=O | C24H22N6O2S
